US08349851B2
To phosphorous oxychloride (10 mL) cooled to 5° C. was added portionwise 7-(benzyloxy)-2-(4-fluorobenzoyl)quinazolin-4(3H)-one (500 mg, 1.34 mmol) followed by the addition of DMF (4 drops). The mixture was warmed to 56° C. over 10 min and held at this temperature for 2 min, then the heating bath was removed. The mixture was concentrated, and the residue was diluted with EtOAc, then the solution was and washed with cold water, saturated sodium bicarbonate (aq), brine, and dried over sodium sulfate. The solution was concentrated to afford (7-(benzyloxy)-4-chloroquinazolin-2-yl)(4-fluorophenyl)methanone as an off-white solid (380 mg, 72%). 1H NMR (300 MHz, DMSO-d6) δ ppm 5.40 (s, 2 H) 7.37-7.45 (m, 5 H) 7.52-7.55 (m, 2 H) 7.66-7.71 (m, 2 H) 8.09-8.14 (m, 2 H) 8.31 (d, J=9.04 Hz, 1 H). LC-MS (ESI) m/z 393 (M+H)+.

reactant | 7-(benzyloxy)-2-(4-fluorobenzoyl)quinazolin-4(3H)-one | 1.34 mmol, 500 mg | C(C1=CC=CC=C1)OC1=CC=C2C(NC(=NC2=C1)C(C1=CC=C(C=C1)F)=O)=O | C22H15FN2O3
reactant | phosphorous oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
product | (7-(benzyloxy)-4-chloroquinazolin-2-yl)(4-fluorophenyl)methanone | 380 mg, 72% | C(C1=CC=CC=C1)OC1=CC=C2C(=NC(=NC2=C1)C(=O)C1=CC=C(C=C1)F)Cl | C22H14ClFN2O2
